US05292760
N-Formyl-2-methoxy-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine
To an ice-water chilled solution of 5.10 g of N-formyl-2-hydroxy-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine and 100 ml of tetrahydrofuran, was added 2.24 g of potassium t-butoxide and then a solution of 2.52 g of dimethylsulfate and 25 ml of tetrahydrofuran dropwise, with stirring. The mixture was stirred at ice-bath temperature for 30 min, at room temperature for one hr, and at reflux for 30 mins. Additional dimethylsulfate and potassium t-butoxide were added and the mixture was refluxed for 20 min. The reaction mixture was decanted into 40 ml of water and basified with 10% sodium hydroxide solution. The mixture was extracted with dichloromethane. The combined organic phase was dried over anhydrous sodium sulfate, filtered and concentrated. The residue was combined with a previous sample. The combined residue was purified by preparative HPLC (Water Associates Prep LC/System 500, silica gel, material applied as a solution in dichloromethane, eluted with ethyl acetate-hexane (1:1, 200 ml/min flow rate). The appropriate fractions were combined and concentrated. The residue crystallized during refrigerated storage. Recrystallization from cyclohexane afforded 3.5 g of the product, mp 80°-83° C.

reactant | N-formyl-2-hydroxy-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine | 5.10 g | C(=O)N(C(CC1=C(C=CC=C1)O)C=1SC=CC1C)C | C15H17NO2S
reactant | potassium t-butoxide | 2.24 g | CC(C)([O-])C.[K+]
reactant | dimethylsulfate | 2.52 g | COS(=O)(=O)OC | C2H6O4S
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-Formyl-2-methoxy-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine | 3.5 g | C(=O)N(C(CC1=C(C=CC=C1)OC)C=1SC=CC1C)C | C16H19NO2S
